US05969137
4-t-Butylphenylacetonitrile
Sodium cyanide (1.07 g, 22 mmol) was added to a stirred solution of 4-t-butylbenzylbromide (5 g, 22 mmol) in a mixture of EtOH-H2O (6:1) (70 mL). The reaction mixture was allowed to stir under reflux conditions for 4 hours. After cooling the mixture to room temperature, the solvent was evaporated under reduced pressure to afford a yellow oil. The oil was suspended in water (20 mL) and extracted with ether (3×25 mL). The solvent was removed under reduced pressure to give a yellow oil which was purified by distillation (Kugelrohr, bp 120-125° C., 0.2 mm Hg) to afford 3.37 g (89%) of the title compound as a colorless oil.

reactant | Sodium cyanide | 22 mmol, 1.07 g | [C-]#N.[Na+]
reactant | 4-t-butylbenzylbromide | 22 mmol, 5 g | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
solvent | EtOH-H2O | 70 mL | C(C)O.O
solvent | water | 20 mL | O | H2O
product | 4-t-Butylphenylacetonitrile | 3.37 g, 89% | C(C)(C)(C)C1=CC=C(C=C1)CC#N | C12H15N
